US07115750B1
N-[1-Acetyl-3-[(N,N-dimethylamino)methyl]-1,2,3,4-tetrahydo-7-quinolyl]-4-biphenylylcarboxamide
Acetyl chloride(0.02 ml) was added to pyridine solution (1 ml) of N-[3-[(N,N-dimethylamino)methyl[-1,2,3,4-tetrahydro-7-quinolinyl]-4-biphenylylcarboxamide (80 mg) under ice-cooling, which was stirred for 15 minutes, and then stirred at room temperature for 15 minutes. 10% aqueous potassium carbonate solution was added to the reaction mixture, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was recrystallized using THF-IPE to give the titled compound (64 mg).

reactant | Acetyl chloride | 0.02 ml | C(C)(=O)Cl | C2H3ClO
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
reactant | (N,N-dimethylamino)methyl[-1,2,3,4-tetrahydro-7-quinolinyl]-4-biphenylylcarboxamide | 80 mg | CN(C)C1=C(C=CC(=C1)C(=O)N(C1=CC=C2CCCNC2=C1)C)C1=CC=CC=C1 | C25H27N3O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[1-Acetyl-3-[(N,N-dimethylamino)methyl]-1,2,3,4-tetrahydo-7-quinolyl]-4-biphenylylcarboxamide | 64 mg | C(C)(=O)N1CC(CC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)CN(C)C | C27H29N3O2
